US03970693
A mixture of 18.2 g. (0.10 mole) of 4'-fluoro-3-hydroxy-2-methylpropiophenone and 12 g. of phosphorous pentoxide in 100 ml. of xylene is refluxed for 1 hour. The reaction is cooled, water is added and the xylene layer is washed with aqueous sodium hydroxide and water. The organic layer is then concentrated in vacuo to give 5-fluoro-2-methyl-1-indanone.

reactant | 4'-fluoro-3-hydroxy-2-methylpropiophenone | 0.10 mole | FC1=CC=C(C=C1)C(C(CO)C)=O | C10H11FO2
reactant | phosphorous pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 5-fluoro-2-methyl-1-indanone | FC=1C=C2CC(C(C2=CC1)=O)C | C10H9FO
